US06835732B2
5-Methyl-thiophene-2-carboxylic acid (4-fluoro-benzothiazol-2-yl)-amide
2-Amino-4-flourobenzothiazol (84 mg, 0.50 mmol) is dissolved in pyridine (3 ml) and treated with 4-dimethylaminopyridine (1 mg) and 5-methyl-thiophene-2-carbonyl chloride (161 mg, 1.0 mmol). After stirring for 1 h at ambient temperature, the reaction mixture was evaporated to dryness. Flash chromatography on silica (eluent diethyl ether/cyclohexane 1:1 containing 0.5% of 25% aqueous ammonia) and final recrystallization from ethyl acetate affords the product as off-white solid.(34 mg, 69%). MS: m/e=292 (M+).

reactant | 2-Amino-4-flourobenzothiazol | 0.50 mmol, 84 mg | NC=1SC2=C(N1)C(=CC=C2)F | C7H5FN2S
reactant | 5-methyl-thiophene-2-carbonyl chloride | 1.0 mmol, 161 mg | CC1=CC=C(S1)C(=O)Cl | C6H5ClOS
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 1 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-Methyl-thiophene-2-carboxylic acid (4-fluoro-benzothiazol-2-yl)-amide | FC1=CC=CC2=C1N=C(S2)NC(=O)C=2SC(=CC2)C | C13H9FN2OS2
